US07795254B2
A solution of 3,4-dihydro-2H-benzo[b][1,4]oxazin-7-ol hydrochloride (0.626 g, 3.34 mmol), cesium carbonate (4.35 g, 13.3 mmol), and 7-(benzyloxy)-4-chloro-6-methoxyquinoline (1.000 g, 3.34 mmol) in DMF (10.0 mL) was stirred at 80° C. After 17 h, additional 3,4-dihydro-2H-benzo[b][1,4]oxazin-7-ol hydrochloride (0.626 g, 3.34 mmol) was added, and the mixture stirred at 80° C. for 20 h. Additional 3,4-dihydro-2H-benzo[b][1,4]oxazin-7-ol hydrochloride (0.6259 g, 3.336 mmol) and cesium carbonate (4.35 g, 13.3 mmol) were added, and the mixture stirred at 80° C. for 3 days. The reaction mixture was partitioned between dichloromethane and water. The aqueous phase was separated and extracted with dichloromethane. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated to afford an orange-brown oil. This material was purified twice via column chromatography (RediSep 120 g column, gradient elution with 0-5% methanol-dichloromethane) to afford an orange oil. Trituration with methanol and filtering the resulting suspension afforded 7-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine (0.560 g, 40.5% yield) as a tan solid. MS (MH+) 415.1; Calculated 414 for C25H22N2O4.

reactant | 3,4-dihydro-2H-benzo[b][1,4]oxazin-7-ol hydrochloride | 3.34 mmol, 0.626 g | Cl.O1C2=C(NCC1)C=CC(=C2)O
reactant | cesium carbonate | 13.3 mmol, 4.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 7-(benzyloxy)-4-chloro-6-methoxyquinoline | 3.34 mmol, 1.000 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)Cl)OC | C17H14ClNO2
reactant | 3,4-dihydro-2H-benzo[b][1,4]oxazin-7-ol hydrochloride | 3.34 mmol, 0.626 g | Cl.O1C2=C(NCC1)C=CC(=C2)O
reactant | 3,4-dihydro-2H-benzo[b][1,4]oxazin-7-ol hydrochloride | 3.336 mmol, 0.6259 g | Cl.O1C2=C(NCC1)C=CC(=C2)O
reactant | cesium carbonate | 13.3 mmol, 4.35 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
product | 7-(7-(benzyloxy)-6-methoxyquinolin-4-yloxy)-3,4-dihydro-2H-benzo[b][1,4]oxazine | 0.560 g, 40.5% yield | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC=1C=CC2=C(OCCN2)C1)OC | C25H22N2O4
